Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fatigue
 
Major Surgical or Invasive Procedure:
EGD ___
 
History of Present Illness:
___ y.o. community dwelling M hx of developmental delay and MS
presenting ___ 3 falls 6 days ago. Pt reports feeling 
lgihtheaded
when he gets out of bed which improves when he lays down. Denies
LOC or head trauma. Small laceration on R elbow. + L chest
"emptyness" which has since resolved. + palpitations. + L neck
numbness when bending over which made him come in today. +
decreased energy. No overt chest pain, shortness of breath, sick
contacts, foreign travel, recent instrumentation. He does not
have URI sx such as cough, nor rhinorhea. He also does not 
report
abdominal pain, nausea, vomiting or diarrhea. He has never had a
colonoscopy. He does not report dysuria. He also does not report
n/v/d. Pt has hx of MS and he had not been treated. His family
has noticed he has decreased strength and energy overall. +23 lb
weight loss over past 10 months. + fever in ED. No rashes. He 
has
a sunburn from sitting out in the sun all day. 

 
Past Medical History:
PMH
HYPERLIPIDEMIA    
HYPERTENSION   
KIDNEY STONES   
LEFT KNEE SURGERY   
STRABISMUS   
TD ___   
MULTIPLE SCLEROSIS   
DEVELOPMENTAL DELAY   
COGNITIVE IMPAIRMENT   
H/O PERINATAL ANOXIA/ENCEPHALOPATHY 

 
Social History:
___
Family History:
+for heart disease and HTN

 
Physical Exam:
VS: T = 98.2, BP = 161/101 P = 89  RR = 18 O2Sat on  99% on
GENERAL:  Well appearing sunburnt male
Nourishment: good
Grooming: good  
Mentation: alert, speaking in full sentences  
2. Eyes: [] WNL 
EOMI without nystagmus, Conjunctiva: clear, PERRL B/l
3. ENT [] WNL
[X] Moist  [] Endentulous  [] Ulcers  [] Erythema  [] JVD ____ 
cm
[] Dry  [X] Poor dentition  [] Thrush  [] Swelling  [] Exudate
4. Cardiovascular [] WNL
[X] Regular  [] Tachy  [X] S1 [X] S2 [+] Systolic Murmur     
___,
Location: LLSB
[] Irregular  []Brady []S3  [] S4  [] Diastolic Murmur    /6,
Location:
[X] Edema RLE  None 
[X] Edema LLE None 
2+ dpp b/l
[] Vascular access  [X] Peripheral [] Central site:
5. Respiratory [X]WNL
[X] CTA bilaterally  [ ] Rales  [ ] Diminshed
6. Gastrointestinal [ ] WNL
[X] Soft [-] Rebound [] No hepatomegaly  [X] Non-tender [] 
Tender
[] No splenomegaly
7. Musculoskeletal-Extremities [] WNL
[ ] Tone WNL  [X ]Upper extremity strength ___ and symmetrical  
[
]Other:
[ ] Bulk WNL    [X] Lower extremity strength ___ and symmetrica 
[
] Other:
8. Neurological [X] WNL
[X] Alert and Oriented x 3 [ ] Romberg: Positive/Negative  [ ] 
CN
II-XII intact  [X] Normal attention  [ ] FNF/HTS WNL [] 
Sensation
WNL  [ ] Delirious/confused  [ ] Asterixis Present/Absent  [ ]
Position sense WNL
[ ] Demented  [ ] No pronator drift  [] Fluent speech
9. Integument  [] WNL
+ sunburn
[X] Warm  
10. Psychiatric [] WNL
[X] Appropriate [] Flat affect [] Anxious [] Manic [] 
Intoxicated
[X] Pleasant [] Depressed [] Agitated [] Psychotic 
. 

 
Pertinent Results:
___ 08:15PM BLOOD WBC-8.5 RBC-2.27*# Hgb-6.7*# Hct-19.8*# 
MCV-88 MCH-29.6 MCHC-33.9 RDW-15.0 Plt ___
___ 10:30AM BLOOD WBC-5.9 RBC-2.43* Hgb-7.1* Hct-21.0* 
MCV-86 MCH-29.3 MCHC-33.9 RDW-16.1* Plt ___
___ 05:15PM BLOOD WBC-6.0 RBC-2.63* Hgb-7.7* Hct-22.5* 
MCV-86 MCH-29.3 MCHC-34.3 RDW-16.2* Plt ___
___ 07:25AM BLOOD WBC-5.6 RBC-2.53* Hgb-7.3* Hct-22.1* 
MCV-88 MCH-28.9 MCHC-33.0 RDW-16.3* Plt ___
___ 06:25AM BLOOD WBC-6.6 RBC-2.82* Hgb-8.3* Hct-25.0* 
MCV-88 MCH-29.4 MCHC-33.3 RDW-15.5 Plt ___
___ 06:30AM BLOOD WBC-7.6 RBC-2.88* Hgb-8.5* Hct-25.6* 
MCV-89 MCH-29.7 MCHC-33.4 RDW-14.9 Plt ___
___ 08:15PM BLOOD Plt ___
___ 10:30AM BLOOD Plt ___
___ 05:15PM BLOOD Plt ___
___ 07:25AM BLOOD Plt ___
___ 06:25AM BLOOD Plt ___
___ 06:30AM BLOOD Plt ___
___ 08:15PM BLOOD Ret Aut-12.2*
___ 08:15PM BLOOD Glucose-112* UreaN-18 Creat-0.9 Na-140 
K-3.2* Cl-100 HCO3-30 AnGap-13
___ 06:25AM BLOOD Glucose-94 UreaN-15 Creat-0.9 Na-140 
K-3.8 Cl-107 HCO3-25 AnGap-12
___ 07:25AM BLOOD ALT-16 AST-18 AlkPhos-72 TotBili-0.4
___ 08:15PM BLOOD LD(LDH)-239
___ 08:15PM BLOOD Iron-23*
___ 08:15PM BLOOD calTIBC-437 Hapto-235* Ferritn-15* 
TRF-336
___ 08:38PM BLOOD Lactate-1.1

EGD:
Birth ___ ___ years)Instrument:___-___ ___
Indications:Dyspepsia
Anemia
Gastrointestinal bleeding
Procedure:The procedure, indications, preparation and potential 
complications were explained to the patient, who indicated his 
understanding and signed the corresponding consent forms. A 
physical exam was performed. The patient was administered 
moderate sedation. Supplemental oxygen was used. The patient was 
placed in the left lateral decubitus position and an endoscope 
was introduced through the mouth and advanced under direct 
visualization until the third part of the duodenum was reached. 
Careful visualization of the upper GI tract was performed. The 
procedure was not difficult. The patient tolerated the procedure 
well. There were no complications.
Findings:
Esophagus:
Protruding LesionsA fungating and ulcerated bleeding 3 cm mass 
of malignant appearance was found at the lower third of the 
esophagus and gastroesophageal junction. The mass caused a 
partial obstruction. The scope traversed the lesion. Cold 
forceps biopsies were performed for histology at the lower third 
of the esophagus and gastro-esophageal junction. 
Stomach:Normal stomach.
Duodenum:Normal duodenum.
Impression:Mass in the lower third of the esophagus and 
gastroesophageal junction (biopsy)
Otherwise normal EGD to third part of the duodenum
Recommendations:Remain NPO.
Obtain CT torso for staging and thoracic surgery consult.

___  ___
 ___
Department of Pathology
                               Patient Name: ___ 
___
___  ___   ___ MRN: ___
Surgical Pathology voice:      Birth Date: ___ Age: ___ Y 
Sex: M
___
Surgical Pathology Facsimile:
 ___
Cytology voice: ___

Date of Procedure: ___  ___ #: ___
Date Specimen(s) Received:     Patient Location: 
Gastroenterology -
___                     ST4
Date Reported: ___      Ordering Provider: ___, 
MD
                               Responsible Provider: ___ 
___, MD

___ to:   ___ MD;   ___ MD

                   SURGICAL PATHOLOGY REPORT - Final

PATHOLOGIC DIAGNOSIS:
 Lower third esophageal mass, mucosal biopsies:

Adenocarcinoma, at least intramucosal, arising in a background 
of
___ esophagus with dysplasia.

The tumor is well differentiated in this mucosal biopsy sample.

Note: Dr. ___ is notified of the diagnosis by 
telephone by
Dr. ___ on ___ at 17:38.

CLINICAL HISTORY:
Dyspepsia. Anemia. Gastrointestinal bleeding.

GROSS DESCRIPTION:
The specimen is received in one formalin-filled container 
labeled with
the patient's name, ___.", the medical record
number, and is additionally labeled "lower third esophagus 
mass". It
consists of multiple pink-red tissue fragments measuring up to 
0.3 cm
which are entirely submitted in cassette 1A.
.

 
Brief Hospital Course:
___ year old male with h/o cerebral palsy, MS, presented with 
syncopal episodes and profound anemia. 

Active Issue: 
# Acute Blood Loss Anemia secondary to Esophageal 
Adenocarcinoma. The patient was admitted to ___ and received 
Transfused 4 units and Hgb jumped from 19 to 25 and remained 
stable. While in house he was noted to have a distal esophageal 
mass which upon EGD was found to be a malignant adenocarcinoma 
in the setting of Barretts esophagus. Oncology and thoracics 
were consulted. For staging, CT of chest and abd were performed 
(see above). 

# Urinary Retention: Did have difficulty with urination and had 
to be straight cath. This resolved by the time of discharge.
.
Chronic Issues:
# HTN: The patient was continued on his B-blocker while in house 
although his diuretic was held on discharge,
.
# HL: The patient was continued on a statin.
.
# Mulitple Scleoris: No active issues.
.
# Cerebral Palsy: No active issues
.
Transitional Issues:
- The patient was set up to have an outpatient EUS, PET and 
follow-up in ___ clinic. The patients PCP was updated 
during the patients hospital course.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 100 mg PO DAILY 
2. Pravastatin 40 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1. Pravastatin 40 mg PO DAILY 
RX *pravastatin [Pravachol] 40 mg 1 tablet(s) by mouth daily 
Disp #*14 Tablet Refills:*0
2. Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth Daily Disp 
#*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
- Esophageal Cancer
- Chronic Blood Loss Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ with low blood levels and were found 
to have a GI bleed coming from a mass in your esophagus. This 
was found to be an esophageal cancer for which you will need 
very close follow-up. 

Please continue to take all of your other medications as 
prescribed. Please hold your diuretic.
 
Followup Instructions:
___